US04891453
A starting material which was a mixture of 3,3',5,5'-tetra-t-butyl-4,4'-diphenoquinone (1.0 g) and 2,6-di-t-butylphenol (1.0 g) was subjected to reaction at 180° C. for 1 hour in a nigrogen gas atmosphere using 10 ml of phenol as a solvent. Thereafter, 0.03 g of sulfuric acid was added to the reaction solution as a catalyst and the reaction was continued for an additional 1 hour at 180° C. in a nitrogen gas atmosphere. As a result, p,p'-biphenol was obtained in an amount of 0.56 g (yield, 62.5%).

reactant | 2,6-di-t-butylphenol | 1.0 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | sulfuric acid | 0.03 g | S(O)(O)(=O)=O | H2O4S
reactant | phenol | 10 ml | C1(=CC=CC=C1)O | C6H6O
product | p,p'-biphenol | C1=CC(=CC=C1C2=CC=C(C=C2)O)O | C12H10O2
